US08222249B2
To a suspension of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonic acid salt (0.18 g, 0.5 mmol) in DMF (2 mL), was added (3-chloro-4-methyl-phenyl)-carbamic acid phenyl ester (143 mg, 0.5 mmol) and DIPEA (83 μL, 0.5 mmol). The mixture was stirred at 100° C. for 4 hours. The mixture was concentrated under reduced pressure to remove DMF, purified on silica gel column eluted using methanol and methylene chloride to give N″-(3-Chloro-4-methyl-phenyl)-N′-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-N-cyano-guanidine as a white solid (40 mg, 17% yield). HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 50/50, CH3CN/0.1% H3PO4,: tR=3.06 min (96.5%); mp: 325-327° C.; 1H NMR (DMSO-d6) δ 1.93-2.09 (m, 1H, CHH), 2.25-2.32 (m, 3H, CH3), 2.33-2.45 (m, 1H, CHH), 2.55-2.67 (m, 1H, CHH), 2.82-3.01 (m, 1H, CHH), 4.27-4.57 (m, 4H, CH2,CH2), 5.11 (dd, J=5.1, 13.2 Hz, 1H, NCH), 7.13 (dd, J=2.3, 8.1 Hz, 1H, Ar), 7.32 (d, J=1.5 Hz, 2H, Ar), 7.43 (d, J=7.7 Hz, 1H, Ar), 7.51 (s, 1H, Ar), 7.71 (d, J=7.7 Hz, 1H, Ar), 7.85 (s, 1H, NH), 9.20 (s, 1H, NH), 10.99 (s, 1H, NH). 13C NMR (DMSO-d6) δ 18.98, 22.49, 31.20, 44.70, 47.15, 51.58, 116.88, 121.98, 122.94, 124.33, 126.97, 130.52, 131.41, 132.08, 133.10, 136.46, 142.36, 142.97, 158.15, 167.86, 170.98, 172.86.; LC-MS: 465; Anal Calcd for C23H21ClN6O3+0.6 H2O+0.2 EtOAc: C, 57.94; H, 4.86; N, 17.03; Found: C, 57.66; H, 4.81; N, 17.10.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonic acid salt | 0.5 mmol, 0.18 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | (3-chloro-4-methyl-phenyl)-carbamic acid phenyl ester | 0.5 mmol, 143 mg | C1(=CC=CC=C1)OC(NC1=CC(=C(C=C1)C)Cl)=O | C14H12ClNO2
reactant | DIPEA | 0.5 mmol, 83 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N″-(3-Chloro-4-methyl-phenyl)-N′-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-N-cyano-guanidine | 40 mg, 17% yield | ClC=1C=C(C=CC1C)N=C(NC#N)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C23H21ClN6O3
